US08486952B2
A solution of 2,4-dichloro-7-(3,5-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (200 mg, 0.664 mmol) and methanamine (0.664 mL, 1.328 mmol) in MeOH (3 mL) was stirred at rt for 1 h. The solvent was removed in vacuum and the crude product was purified by column chromatography on silica gel to give 2-chloro-7-(3,5-difluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (60 mg, 0.203 mmol, 30.5% yield). LC-MS (M+H)+=296.1.

reactant | 2,4-dichloro-7-(3,5-difluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.664 mmol, 200 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=CC(=C2)F)F)Cl | C13H8Cl2F2N2
reactant | methanamine | 1.328 mmol, 0.664 mL | CN | CH5N
solvent | MeOH | 3 mL | CO | CH4O
product | 2-chloro-7-(3,5-difluorophenyl)-N-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.203 mmol, 60 mg, 30.5% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC(=CC(=C2)F)F)NC | C14H12ClF2N3
